US05541229
a) Tert.butyl 4'-[(7-n-butoxy-2-n-butyl-4-methylbenzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
tert.butyl 4'-[(2-n-butyl-7-(2-methoxyethoxy)-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.35 (Aluminium oxide plate: methylene chloride/ethanol=99:1)

reactant | tert.butyl 4'-[(2-n-butyl-7-(2-methoxyethoxy)-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C(=CC=C2C)OCCOC | C33H40N2O4
reactant | Aluminium oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | Tert.butyl 4'-[(7-n-butoxy-2-n-butyl-4-methylbenzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)OC1=CC=C(C2=C1N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C)C | C34H42N2O3
